US04849420
2-[(1,2,3,4-Tetrahydro-6,7-dimethoxy-1-isoquinolinyl)methyl]benzeneacetic acid (XIc)
A mixture of 2-[(1,2,3,4-tetrahydro-6,7-dimethoxy-1-isoquinolinyl)methyl]benzeneacetic acid methyl ester (Xc, Ex. 12) (1.0 g, 2.8 mmole) 1.0N sodium hydroxide solution and methanol (1 ml) was heated under reflux for 1.5 hr, and filtered after being cooled to room temperature. The filtrate was acidified with dilute hydrochloric acid, and chilled in ice with scratching. A white cotton-like precipitate was collected on a filter and washed with cold water to give the titled product (0.45 g, 41%), mp 129°-145° dec.

reactant | 2-[(1,2,3,4-tetrahydro-6,7-dimethoxy-1-isoquinolinyl)methyl]benzeneacetic acid methyl ester | 2.8 mmole, 1.0N, 1.0 g | COC(CC1=C(C=CC=C1)CC1NCCC2=CC(=C(C=C12)OC)OC)=O | C21H25NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | 2-[(1,2,3,4-Tetrahydro-6,7-dimethoxy-1-isoquinolinyl)methyl]benzeneacetic acid | 0.45 g, 41% | COC=1C=C2CCNC(C2=CC1OC)CC1=C(C=CC=C1)CC(=O)O | C20H23NO4
